US04332800
To a solution of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate acetone adduct (syn isomer) (40 g) in water (50 ml) was added a small amount of colorless needles of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) and the mixture was stirred for one hour in an ice bath. The resulting precipitates were collected by filtration, washed with cold water (33 ml) and dried in vacuo for 10 hours to give 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrate (syn isomer) (24.7 g), as colorless needles, mp 170° to 175° C. (dec.).

reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate acetone | 40 g | CC(=O)C.C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N
reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | C19H19N7O5S2
solvent | water | 50 ml | O | H2O
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrate | 24.7 g | O.O.C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)N | InChI=1S/C19H19N7O5S2.2H2O/c1-2-31-23-11(14-22-19(20)33-24-14)15(27)21-12-16(28)26-13(18(29)30)10(9-32-17(12)26)8-25-6-4-3-5-7-25;;/h3-7,12,17H,2,8-9H2,1H3,(H3-,20,21,22,24,27,29,30);2*1H2/t12?,17-;;/m1../s1
